US04128720
Phenylthio-methylthio-methane
120 ml. of a 1.3M n-butyllithium solution in n-hexane were added dropwise to a solution of 18.8 ml. of thioanisole in 240 ml. of tetrahydrofuran at -20° C. and the reaction mixture was stirred at that temperature for 2 hours. After cooling to -70° C., 16.4 g. of dimethyldisulphide were added to the reaction mixture, which was then stirred at -70° C. for 15 minutes and at room temperature for 1 hour. The reaction mixture was poured into dilute aqueous hydrochloric acid and extracted with ethyl acetate. The extracts were washed with water and an aqueous solution of sodium chloride and concentrated under reduced pressure. The residue was purified by distillation in vacuo to give 18.0 g. of the title compound having the following physical characteristics:

reactant | n-butyllithium | 1.3M | C(CCC)[Li]
reactant | thioanisole | C1(=CC=CC=C1)SC | C7H8S
reactant | dimethyldisulphide | CSSC | C2H6S2
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Phenylthio-methylthio-methane | C1(=CC=CC=C1)SCSC | C8H10S2
